US04698352
To 0.7 g of 1-(4-fluorophenyl)-6-methyl-4-oxo-1,4-dihydronicotinic acid was added 0.33 g of isonicotinaldehyde and 0.61 g of acetic anhydride, and they were refluxed for 5 hours. After completion of the reaction, 30 ml of water was added to the reaction mixture, and the mixture was successively extracted with three 30-ml portions of chloroform. The chloroform layer was separated, washed with 20 ml of a saturated aqueous solution of sodium chloride, and then dried with anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure to obtain 0.42 g of 1-(4-fluorophenyl)-6-[2-(pyridin-4-yl)ethenyl]-4-oxo-1,4-dihydronicotinic acid having a melting point of 205°-215° C.

reactant | 1-(4-fluorophenyl)-6-methyl-4-oxo-1,4-dihydronicotinic acid | 0.7 g | FC1=CC=C(C=C1)N1C=C(C(=O)O)C(C=C1C)=O | C13H10FNO3
reactant | isonicotinaldehyde | 0.33 g | C(C1=CC=NC=C1)=O | C6H5NO
reactant | acetic anhydride | 0.61 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | water | 30 ml | O | H2O
product | 1-(4-fluorophenyl)-6-[2-(pyridin-4-yl)ethenyl]-4-oxo-1,4-dihydronicotinic acid | 0.42 g | FC1=CC=C(C=C1)N1C=C(C(=O)O)C(C=C1C=CC1=CC=NC=C1)=O | C19H13FN2O3
